US04827004
A solution of 0.5 g (0.0016 mol) of (6Z,10Z)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatrien-3-ol dissolved in 14.5 ml of tetrahydrofuran and 3.7 ml of water is treated with 167.2 mg (0.4 mol equivalents) of pyridinium p-toluenesulfonate. The solution is boiled at reflux for 17 hours. After cooling 100 ml of water and 300 ml of ether are added thereto. The organic phase is neutralized with sodium bicarbonate solution. After drying and removing the solvent the residue is chromatographed on silica gel with ether-hexane 1:1. There is obtained (6Z,10Z)-1,6,10-dodecatriene-3,12-diol which has the following bands in the IR spectrum: 3448 cm-1, 1646 cm-1, 1443 cm-1, 1375 cm-1, 998 cm-1.

reactant | (6Z,10Z)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatrien-3-ol | 0.0016 mol, 0.5 g | CC(=C)C(CC\C(=C/CC\C(=C/COC1OCCCC1)\C)\C)O | C20H34O3
reactant | water | 3.7 ml | O | H2O
reactant | pyridinium p-toluenesulfonate | 0.4 mol, 167.2 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | 100 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 14.5 ml | O1CCCC1 | C4H8O
solvent | ether | 300 ml | CCOCC | C4H10O
product | (6Z,10Z)-1,6,10-dodecatriene-3,12-diol | C=CC(CC\C=C/CC\C=C/CO)O | C12H20O2
